US07816557B2
To a solution of 4-(1-hydroxy-heptyl)-benzoic acid methyl ester (1800 mg, 7.2 mmol) in toluene (72 mL) is added 1,1′-(azodicarbonyl)dipiperidine (ADDP, 2725 mg, 10.8 mmol) at 0° C., followed by the additions of tributylphosphine (2.69 mL, 10.8 mmol) and 4-bromo-phenol (1503 mg, 8.64 mmol). The reaction mixture is warmed up to room temperature and stirred overnight. The mixture is loaded on silica gel, eluted with hexanes with a gradient from 0% of ethyl acetate to 50% of ethyl acetate giving 4-[1-(4-bromo-phenoxyl)-heptyl]-benzoic acid methyl ester. 1900 mg of the ester product is taken into ethanol (5 mL), treated with sodium hydroxide (5N aqueous, 2 mL) for 3 h at room temperature. The mixture is concentrated, diluted with ethyl acetate, acidified with 5 N HCl (2 mL), and extracted with ethyl acetate. The organic layers are dried and concentrated giving 4-[1-(4-bromo-phenoxyl)-heptyl]-benzoic acid (1800 mg).

reactant | 4-(1-hydroxy-heptyl)-benzoic acid methyl ester | 7.2 mmol, 1800 mg | COC(C1=CC=C(C=C1)C(CCCCCC)O)=O | C15H22O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 10.8 mmol, 2725 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 10.8 mmol, 2.69 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-bromo-phenol | 8.64 mmol, 1503 mg | BrC1=CC=C(C=C1)O | C6H5BrO
solvent | toluene | 72 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(4-bromo-phenoxyl)-heptyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)Br)=O | C21H25BrO3
